US08580968B2
One equivalent of 6-bromo-2-chlorobenzo[d]thiazole (248 mg, 1.0 mmol) and 1.1 equivalents of 4-(pyrrolidin-1-yl)piperidine (0.170 g, 1.1 mmol) were weighed into a 10 mL CEM microwave vial equipped with a magnetic stirbar. N,N-Dimethylformamide (1.0 mL) and three equivalents of N,N-diisopropylethylamine (0.524 ml, 3.00 mmol) were added via syringe. The reaction mixture was heated to 150° C. under microwave irradiation with the cooling power on for 15 minutes. The reaction mixture was transferred to a 250 mL round bottom flask (methanol rinse) and volatiles were removed under reduced pressure. The residue was partitioned between saturated aqueous sodium carbonate and CHCl3. The aqueous layer was extracted once more with CHCl3, then the combined organic extracts were washed with brine, dried (MgSO4), and filtered. The filtrate was concentrated under reduced pressure to give a solid. This crude solid was purified by column chromatography on an Analogix IF-280 (Analogix SF15-12 g, 100% dichloromethane to 97:3 dichloromethane/2 M ammonia in methanol). Fractions containing product were combined and concentrated under reduced pressure to give a solid that was dissolved in hot ethyl acetate, dried (MgSO4), and filtered. The filtrate was placed in a 0° C. freezer to promote crystallization. Crystals were collected by filtration and dried in a vacuum oven to give 6-bromo-2-(4-(pyrrolidin-1-yl)piperidin-1-yl)benzo[d]thiazole. 1H NMR (300 MHz, CD3OD) δ ppm 1.51-1.66 (m, 2H), 1.78-1.88 (m, 4H), 2.04-2.14 (m, 2H), 2.34-2.46 (m, 1H), 2.63-2.72 (m, 4H), 3.16-3.27 (m, 2H), 4.06-4.15 (m, 2H), 7.33 (d, J=9 Hz, 1H), 7.39 (dd, J=2, 9 Hz, 1H), 7.79 (d, J=2 Hz, 1H); MS (DCI/NH3) m/z 366 (M+H)+.

reactant | 6-bromo-2-chlorobenzo[d]thiazole | 1.0 mmol, 248 mg, One equivalent | BrC1=CC2=C(N=C(S2)Cl)C=C1 | C7H3BrClNS
reactant | 4-(pyrrolidin-1-yl)piperidine | 1.1 mmol, 0.170 g, 1.1 equivalents | N1(CCCC1)C1CCNCC1 | C9H18N2
reactant | N,N-Dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
reactant | N,N-diisopropylethylamine | 3.00 mmol, 0.524 ml, three equivalents | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-bromo-2-(4-(pyrrolidin-1-yl)piperidin-1-yl)benzo[d]thiazole | BrC1=CC2=C(N=C(S2)N2CCC(CC2)N2CCCC2)C=C1 | C16H20BrN3S
